US07915415B2
The above compound, N-formyl-2-amino-3′,5-di-t-butyl biphenyl (6.5 g, 21 mmol) was dissolved into 50 mL of chlorobenzene to which 5 equivalents of di-t-butyl peroxide was added. The reaction mixture was heated to 110° C. for 72 hours. The reaction mixture was concentrated in half and cooled to 0° C. The precipitate that formed was collected by vacuum filtration. The off-white solid washed with hexanes to give 2,9-di-tert-butylphenanthridinone as determined by GCMS and not purified any further.

reactant | N-formyl-2-amino-3′,5-di-t-butyl biphenyl | 21 mmol, 6.5 g | C(=O)NC1=C(C=C(C=C1)C(C)(C)C)C1=CC(=CC=C1)C(C)(C)C | C21H27NO
reactant | di-t-butyl peroxide | 5 equivalents | C(C)(C)(C)OOC(C)(C)C | C8H18O2
solvent | chlorobenzene | 50 mL | ClC1=CC=CC=C1 | C6H5Cl
product | 2,9-di-tert-butylphenanthridinone | C(C)(C)(C)C1C(C2=C3C=C(C=CC3=CN=C2C=C1)C(C)(C)C)=O | C21H25NO
